US07022707B2
(R)-2-Ethyl-piperazine-1-carboxylic acid 2,6-difluoro-3-methoxy-benzyl ester hydrochloride:
A mixture of 5.03 mg (0.126 mmol) NaH (60% suspension in mineral oil) and 33.6 mg (0.084 mmol) (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2,6-difluoro-3-hydroxy-benzyl) ester in 1 ml DMF was stirred for 30 min at room temperature under argon. 13.1 mg (0.092 mmol) methyliodide was added and the mixture was stirred 30 min at room temperature. After addition of 0.06 ml HCl (37%) the mixture was purified with preparative HPLC eluting with an acetonitrile/water gradient. The fractions containing the desired intermediate were combined and evaporated to dryness. The residue was taken up in 1 ml dioxane and 0.125 ml HCl (37%) and stirred for 30 min at 60° C. Evaporation of the mixture yielded 22 mg (75%) of the title compound. MS (ISP): 315 (M+H)+.

reactant | NaH | 0.126 mmol, 5.03 mg | [H-].[Na+]
reactant | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2,6-difluoro-3-hydroxy-benzyl) ester | 0.084 mmol, 33.6 mg | FC1=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C(=CC=C1O)F | C19H26F2N2O5
reactant | methyliodide | 0.092 mmol, 13.1 mg | CI | CH3I
reactant | HCl | 0.06 ml | Cl | ClH
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (R)-2-Ethyl-piperazine-1-carboxylic acid 2,6-difluoro-3-methoxy-benzyl ester hydrochloride | 22 mg, 75% | Cl.FC1=C(COC(=O)N2[C@@H](CNCC2)CC)C(=CC=C1OC)F | InChI=1S/C15H20F2N2O3.ClH/c1-3-10-8-18-6-7-19(10)15(20)22-9-11-12(16)4-5-13(21-2)14(11)17;/h4-5,10,18H,3,6-9H2,1-2H3;1H/t10-;/m1./s1
